US04202899
(d) N-Butyl-8-ethyl-2-methyl-8H-pyrazolo[1,5-a]pyrazolo[4',3':5,6]pyrido[3,4-e]pyrimidin-5-amine
5.7 g of 5-chloro-8-ethyl-2-methyl-8H-pyrazolo[1,5-a]-pyrazolo[4',3':5,6]pyrido[3,4-e]pyrimidine (0.02 mol) are dissolved in 50 ml of dry alcohol. After addition of 1.5 g of n-butylamine, the mixture is heated at reflux temperature with stirring for 12 hours. The solvent is removed and the crystalline residue is treated with water. The N-butyl-8-ethyl-2-methyl-8H-pyrazolo[1,5-a]pyrazolo[4',3':5,6]pyrido[4,3e]pyrimidin-5-amine is filtered off and recrystallized from ethyl acetate, yield 5 g (77%); m.p. 160°-162°.

reactant | 5-chloro-8-ethyl-2-methyl-8H-pyrazolo[1,5-a]-pyrazolo[4',3':5,6]pyrido[3,4-e]pyrimidine | 0.02 mol, 5.7 g | ClC1=NC=2N(C3=C1C=NC1=C3C=NN1CC)N=C(C2)C | C13H11ClN6
reactant | n-butylamine | 1.5 g | C(CCC)N | C4H11N
product | N-Butyl-8-ethyl-2-methyl-8H-pyrazolo[1,5-a]pyrazolo[4',3':5,6]pyrido[3,4-e]pyrimidin-5-amine | C(CCC)NC1=NC=2N(C3=C1C=NC1=C3C=NN1CC)N=C(C2)C | C17H21N7
